US08580813B2
Step7: [2-(3-Fluoro-2-methyl-benzyl)-5-methoxy-1-phenyl-1H-pyrrolo[3,2-b]pyridin-3-yl]-piperazin-1-yl-methanone
The compound of step 6 (23 mg, 41.2 μmol) was reacted analogously as described in example 1, step 7. Dissolution of the obtained solid in a small quantity of MOH, addition of hydrochloric acid (0.1 M) and lyophilization overnight yielded 15.9 mg of the title compound in the form of the [2-(3-fluoro-2-methyl-benzyl)-5-methoxy-1-phenyl-1H-pyrrolo[3,2-b]pyridin-3-yl]-piperazin-1-yl-methanone dihydrochloride.

reactant | hydrochloric acid | 0.1 M | Cl | ClH
reactant | [2-(3-fluoro-2-methyl-benzyl)-5-methoxy-1-phenyl-1H-pyrrolo[3,2-b]pyridin-3-yl]-piperazin-1-yl-methanone dihydrochloride | Cl.Cl.FC=1C(=C(CC2=C(C3=NC(=CC=C3N2C2=CC=CC=C2)OC)C(=O)N2CCNCC2)C=CC1)C
product | [2-(3-Fluoro-2-methyl-benzyl)-5-methoxy-1-phenyl-1H-pyrrolo[3,2-b]pyridin-3-yl]-piperazin-1-yl-methanone | 15.9 mg | FC=1C(=C(CC2=C(C3=NC(=CC=C3N2C2=CC=CC=C2)OC)C(=O)N2CCNCC2)C=CC1)C | C27H27FN4O2
